### PR TITLE
feat(Analysis/Matrix): add Jacobian matrix for matrix-valued functions

### PR DESCRIPTION
**Pull request by hdmkindom**
This PR introduces the Jacobian matrix for matrix-valued functions `F : Matrix m n 𝕜 → Matrix p q 𝕜`.

The Jacobian matrix `jacobianMatrix F X` at point `X` is indexed by `(p × q) × (m × n)`, where each entry represents the partial derivative with respect to a basis element. To handle instance-mismatch issues with matrix norms, we use local Frobenius norm instances.

This PR adds the new file:
'Analysis/Matrix/Jacobian.lean'

## Main definitions

- `jacobianMatrix F X`: The Jacobian matrix at point `X`, defined by `jacobianMatrix F X (i, k) (j, l) = (fderiv ℝ F X (Matrix.single j l 1)) i k`

## Main theorems

- `fderiv_eq_jacobian_mul`: Express the Fréchet derivative as a contraction with the Jacobian
- `jacobianMatrix_comp`: Chain rule for Jacobian matrices
- `jacobianMatrix_linear`, `jacobianMatrix_id`, `jacobianMatrix_const`: Basic properties
- `jacobianMatrix_add`, `jacobianMatrix_smul`: Linearity properties

### CODE REVIEW

File: Mathlib/Analysis/Matrix/Jacobian.lean [hunk 1]
```diff
@@ -0,0 +1,218 @@
...
+/-- The Jacobian matrix of a matrix-valued function of a matrix variable.
+
+`jacobianMatrix F X` is indexed by `(p × q)` (output coordinates) and `(m × n)` (input coordinates),
+and is defined by
+`J[(i, k), (j, l)] = (fderiv ℝ F X (Matrix.single j l 1)) i k`.
+-/
+noncomputable def jacobianMatrix
+    (F : Matrix m n ℝ → Matrix p q ℝ) (X : Matrix m n ℝ) :
+    Matrix (p × q) (m × n) ℝ :=
+  fun (i, k) (j, l) => (fderiv ℝ F X (Matrix.single j l (1 : ℝ))) i k
```
Comment (erdOne) [inline Mathlib/Analysis/Matrix/Jacobian.lean]:
```suggestion
  fun (i, k) (j, l) => fderiv ℝ F X (Matrix.single j l (1 : ℝ)) i k
```

File: Mathlib/Analysis/Matrix/Jacobian.lean [hunk 2]
```diff
@@ -0,0 +1,218 @@
...
+section ChainRule
+
+variable {m n p q r s : Type*}
+variable [Fintype m] [Fintype n] [Fintype p] [Fintype q] [Fintype r] [Fintype s]
+
+@[simp]
+theorem matrix_fderiv_comp
+    (F : Matrix m n ℝ → Matrix p q ℝ)
+    (G : Matrix p q ℝ → Matrix r s ℝ)
+    (X : Matrix m n ℝ)
```
Comment (jcommelin) [inline Mathlib/Analysis/Matrix/Jacobian.lean]: Can you extract these into `variable` statement as well.

File: Mathlib/Analysis/Matrix/Jacobian.lean [hunk 3]
```diff
@@ -0,0 +1,218 @@
...
+variable [DecidableEq m] [DecidableEq n]
+
+/-- The Jacobian matrix of a matrix-valued function of a matrix variable.
+
+`jacobianMatrix F X` is indexed by `(p × q)` (output coordinates) and `(m × n)` (input coordinates),
+and is defined by
+`J[(i, k), (j, l)] = (fderiv ℝ F X (Matrix.single j l 1)) i k`.
+-/
+noncomputable def jacobianMatrix
+    (F : Matrix m n ℝ → Matrix p q ℝ) (X : Matrix m n ℝ) :
```
Comment (jcommelin) [inline Mathlib/Analysis/Matrix/Jacobian.lean]: Can you generalize this from `ℝ` to non-trivially normed fields?

File: Mathlib/Analysis/Matrix/Jacobian.lean [hunk 4]
```diff
@@ -0,0 +1,218 @@
...
+    simp only [smul_single, smul_eq_mul, mul_one]
+  -- apply `map_smul` and commute the scalar
+  calc
+    (fderiv ℝ F X) (Matrix.single j l (H j l)) i k
+        = (fderiv ℝ F X) ((H j l) • Matrix.single j l (1 : ℝ)) i k := by
+            rw [hs]
+    _ = (H j l) * (fderiv ℝ F X) (Matrix.single j l (1 : ℝ)) i k := by
+            rw [map_smul, smul_apply, smul_eq_mul]
+    _ = (fderiv ℝ F X) (Matrix.single j l (1 : ℝ)) i k * H j l := by
+            simp [mul_comm]
```
Comment (erdOne) [inline Mathlib/Analysis/Matrix/Jacobian.lean]: I think you can try to utilize simp more.
```suggestion
  -- decompose `H` into the standard basis
  have h_decomp : H = ∑ j : m, ∑ l : n, H j l • Matrix.single j l 1 := by
    simpa using Matrix.matrix_eq_sum_single H
  conv_lhs => rw [h_decomp]
  simp [-smul_single, Matrix.sum_apply, mul_comm]
```

File: Mathlib/Analysis/Matrix/Jacobian.lean [hunk 5]
```diff
@@ -0,0 +1,218 @@
...
+    Matrix (p × q) (m × n) ℝ :=
+  fun (i, k) (j, l) => (fderiv ℝ F X (Matrix.single j l (1 : ℝ))) i k
+
+@[simp]
+theorem jacobianMatrix_eq_fderiv_basis
+    (F : Matrix m n ℝ → Matrix p q ℝ) (X : Matrix m n ℝ)
+    (i : p) (k : q) (j : m) (l : n) :
+    jacobianMatrix F X (i, k) (j, l) =
+      (fderiv ℝ F X) (Matrix.single j l (1 : ℝ)) i k := by
+  rfl
```
Comment (erdOne) [inline Mathlib/Analysis/Matrix/Jacobian.lean]:
```suggestion
@[simp]
theorem jacobianMatrix_eq_fderiv_basis
    (F : Matrix m n ℝ → Matrix p q ℝ) (X : Matrix m n ℝ)
    (ik : p × q) (jl : m × n) :
    jacobianMatrix F X ik jl = fderiv ℝ F X (Matrix.single jl.1 jl.2 1) ik.1 ik.2 := rfl
```
1. The left hand side is syntactically more general when you do not assume it is applied to arguments of the form `(i, k)` and applies more easily.
2. `rfl` as a proof is better than `by rfl` because the former proof registers the lemma as a `dsimp` lemma.

File: Mathlib/Analysis/Matrix/Jacobian.lean [hunk 6]
```diff
@@ -0,0 +1,218 @@
...
+  by_cases h : (i = j ∧ k = l)
+  · rcases h with ⟨rfl, rfl⟩
+    simp only [Matrix.single_apply_same]
+    simp only [and_self, ↓reduceIte]
+  · have h' : ¬ (j = i ∧ l = k) := by
+      intro hji
+      apply h
+      exact ⟨hji.1.symm, hji.2.symm⟩
+    simp only [h, Matrix.single_apply_of_ne (i := j) (j := l) (c := (1 : ℝ)) (i' := i) (j' := k) h']
+    simp only [↓reduceIte]
```
Comment (erdOne) [inline Mathlib/Analysis/Matrix/Jacobian.lean]:
```suggestion
      if i = j ∧ k = l then 1 else 0 := by
  simp [Matrix.single_apply]
  grind
```

File: Mathlib/Analysis/Matrix/Jacobian.lean [hunk 7]
```diff
@@ -0,0 +1,218 @@
...
+
+theorem jacobianMatrix_const
+    (C : Matrix p q ℝ) (X : Matrix m n ℝ)
+    (i : p) (k : q) (j : m) (l : n) :
+    jacobianMatrix (fun _ : Matrix m n ℝ => C) X (i, k) (j, l) = 0 := by
+  classical
+  simp only [jacobianMatrix, fderiv_fun_const, Pi.zero_apply, ContinuousLinearMap.zero_apply,
+    zero_apply]
```
Comment (erdOne) [inline Mathlib/Analysis/Matrix/Jacobian.lean]:
```suggestion
  simp
```

File: Mathlib/Analysis/Matrix/Jacobian.lean [hunk 8]
```diff
@@ -0,0 +1,218 @@
...
+    (hF : DifferentiableAt ℝ F X) (hG : DifferentiableAt ℝ G X)
+    (i : p) (k : q) (j : m) (l : n) :
+    jacobianMatrix (fun Y => F Y + G Y) X (i, k) (j, l) =
+      jacobianMatrix F X (i, k) (j, l) + jacobianMatrix G X (i, k) (j, l) := by
+  unfold jacobianMatrix
+  have h_add : (fun Y => F Y + G Y) = fun Y => (F + G) Y := rfl
+  rw [h_add]
+  rw [fderiv_add hF hG]
+  simp only [ContinuousLinearMap.add_apply]
+  rfl
```
Comment (erdOne) [inline Mathlib/Analysis/Matrix/Jacobian.lean]:
```suggestion
      jacobianMatrix F X (i, k) (j, l) + jacobianMatrix G X (i, k) (j, l) := by
  simp [fderiv_fun_add, *]
```

File: Mathlib/Analysis/Matrix/Jacobian.lean [hunk 9]
```diff
@@ -0,0 +1,218 @@
...
+    (hF : DifferentiableAt ℝ F X)
+    (i : p) (k : q) (j : m) (l : n) :
+    jacobianMatrix (fun Y => c • F Y) X (i, k) (j, l) =
+      c * jacobianMatrix F X (i, k) (j, l) := by
+  unfold jacobianMatrix
+  have h_smul : (fun Y => c • F Y) = fun Y => (c • F) Y := rfl
+  rw [h_smul]
+  rw [fderiv_const_smul hF]
+  simp only [ContinuousLinearMap.smul_apply]
+  rfl
```
Comment (erdOne) [inline Mathlib/Analysis/Matrix/Jacobian.lean]:
```suggestion
  simp [fderiv_fun_const_smul, *]
```

File: Mathlib/Analysis/Matrix/Jacobian.lean (hunk 2 above)
Comment (hdmkindom) [reply Mathlib/Analysis/Matrix/Jacobian.lean]: Thanks, I have moved these repeated arguments into `variable` declarations. I have removed that line from the PR description and rephrased it as a new file addition.

File: Mathlib/Analysis/Matrix/Jacobian.lean (hunk 3 above)
Comment (hdmkindom) [reply Mathlib/Analysis/Matrix/Jacobian.lean]: Thanks for the suggestion. I have generalized the definitions and theorems from `ℝ` to a nontrivially normed field where possible.

File: Mathlib/Analysis/Matrix/Jacobian.lean (hunk 1 above)
Comment (hdmkindom) [reply Mathlib/Analysis/Matrix/Jacobian.lean]: Thanks, I have applied this simplification.

File: Mathlib/Analysis/Matrix/Jacobian.lean (hunk 4 above)
Comment (hdmkindom) [reply Mathlib/Analysis/Matrix/Jacobian.lean]: Thanks, I have simplified this proof using `simp` as suggested.

File: Mathlib/Analysis/Matrix/Jacobian.lean (hunk 5 above)
Comment (hdmkindom) [reply Mathlib/Analysis/Matrix/Jacobian.lean]: Thanks, I have changed this lemma to use pair arguments and proved it by `rfl`.

File: Mathlib/Analysis/Matrix/Jacobian.lean (hunk 6 above)
Comment (hdmkindom) [reply Mathlib/Analysis/Matrix/Jacobian.lean]: Thanks for the suggestion, I have simplified this proof using `simp` and `grind`.  I have a small style question: in this kind of proof, is a plain `simp` preferred, or would `simp only [...]` be better? I was concerned that using plain `simp` might make the proof less explicit and therefore slightly less readable.

File: Mathlib/Analysis/Matrix/Jacobian.lean (hunk 7 above)
Comment (hdmkindom) [reply Mathlib/Analysis/Matrix/Jacobian.lean]: Thanks, I have simplified this proof using `simp only [jacobianMatrix_eq_fderiv_basis, fderiv_fun_const, Pi.zero_apply,
    ContinuousLinearMap.zero_apply, zero_apply]`.

File: Mathlib/Analysis/Matrix/Jacobian.lean (hunk 8 above)
Comment (hdmkindom) [reply Mathlib/Analysis/Matrix/Jacobian.lean]: Thanks, I have simplified this proof using `simp [fderiv_fun_add, *]`.

File: Mathlib/Analysis/Matrix/Jacobian.lean (hunk 9 above)
Comment (hdmkindom) [reply Mathlib/Analysis/Matrix/Jacobian.lean]: Thanks, I have simplified this proof using `simp [fderiv_fun_const_smul, *]`.

**Comment by hdmkindom** [comment]
Thanks for the reviews.

I have pushed an updated version addressing the previous comments:

- removed the incorrect `mkdir ...` line from the PR description;

- moved repeated arguments into `variable` declarations where appropriate;

- generalized the definitions and statements from `ℝ` to a nontrivially normed field where possible;

- simplified several proofs using `simp`;

- adjusted the simp lemma shape for `jacobianMatrix_eq_fderiv_basis`.

This is my first time revising a mathlib PR, and I accidentally rewrote the branch history while updating the PR. Sorry for the inconvenience.
